US04983597
Step A: Preparation of (±)-cis-3-Ethyl-4-t-butyldimethylsilyloxymethyl-2-azetidinone
187 mg of (±)-cis-3-ethyl-4-hydroxymethyl-2-azetidinone, 300 mg of imidazole, and 300 mg of t-butyldimethylsilyl chloride in 3 ml dry dimethylformamide (DMF) were stirred at room temperature for 2 hours. The mixture was concentrated to dryness and 25 ml of H2O:EtOAc (2:3) were added. The mixture was washed 3 times with 3 ml of H2O to remove DMF and imidazole and then dried over Na2SO4 and concentrated to yield the titled compound as white crystals. NMR (CDCl3): δ0.06 (6H, s), 0.89 (9H, s), 1.06 (3H, t), 1.48-1.88 (2H, m), 3.14 (1H, m), 3.56-3.90 (3H, m), 5.86 (1H, brs).

reactant | (±)-cis-3-ethyl-4-hydroxymethyl-2-azetidinone | 187 mg | C(C)[C@@H]1C(N[C@@H]1CO)=O | C6H11NO2
reactant | imidazole | 300 mg | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 300 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | (±)-cis-3-Ethyl-4-t-butyldimethylsilyloxymethyl-2-azetidinone | C(C)[C@@H]1C(N[C@@H]1CO[Si](C)(C)C(C)(C)C)=O | C12H25NO2Si
